US06593322B1
A. (2E)-3-(4-{[2-(4-Fluorophenyl)-6-(phenylmethoxy)(1,2,3,4-tetrahydroisoquinolyl)]methyl}phenyl)-N-(2-hydroxyethyl)prop-2-enamide
The title compound was prepared as described in Example 34.B using (2E)-3-(4-{[2-(4-fluorophenyl)-6-(phenylmethoxy)( 1,2,3,4-tetrahydroisoquinolyl)]methyl}phenyl)prop-2-enoic acid (0.494 g, 1.0 mmol) and ethanolamine (0.122 g, 2.0 mmol) to provide the title compound (0.322 g, 60% yield): 1H NMR (CDCl3) 8.02 (br, 1H), 7.61 (d, 1H), 7.32-7.41 (m, 7H), 7.00 (d, 2H), 6.91 (m, 2H), 6.69-6.77 (m, 5H), 6.37 (d, 1H), 6.12 (t, 1H), 5.03 (s, 2H), 4.75 (t, 1H), 3.80 (t, 2H), 3.57 (t, 2H), 3.45-3.56 (m 2H), 3.15 (dd, 1H), 2.89 (m, 2H), 2.66 (dt, 1H); ES-MS m/z 537 [M+H]+.

reactant | (2E)-3-(4-{[2-(4-fluorophenyl)-6-(phenylmethoxy)( 1,2,3,4-tetrahydroisoquinolyl)]methyl}phenyl)prop-2-enoic acid | 1.0 mmol, 0.494 g | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)CC1=CC=C(C=C1)/C=C/C(=O)O | C32H28FNO3
reactant | ethanolamine | 2.0 mmol, 0.122 g | C(O)CN | C2H7NO
product | (2E)-3-(4-{[2-(4-Fluorophenyl)-6-(phenylmethoxy)(1,2,3,4-tetrahydroisoquinolyl)]methyl}phenyl)-N-(2-hydroxyethyl)prop-2-enamide | 0.322 g, 60% yield | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)CC1=CC=C(C=C1)/C=C/C(=O)NCCO | C34H33FN2O3
